Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine / Tramadol / Demerol
 
Attending: ___.
 
Chief Complaint:
Neuroendocrine tumor 
 
Major Surgical or Invasive Procedure:
___:
1. Radical pancreaticoduodenectomy (Whipple procedure).
2. Left lateral hepatic sectionectomy.
3. Open cholecystectomy.
4. Intraoperative ultrasound.

 
History of Present Illness:
The patient is a ___ year-old male who is followed by 
rheumatology for an inflammatory erosive polyarthritis as well 
as a history of GERD responsive to rabeprazole who presented in 
late ___ to his gastroenterologist, Dr. ___, with 
approximately three days of epigastric pain and nausea. He was 
evaluated with abdominal ultrasound initially, which showed what 
appeared to be a 3.9 cm head of pancreas mass. An ultrasound in 
___ had not shown any lesions.  He then had CTA abdomen 
on ___, which showed a 2.7 x 3.4 cm pancreatic head lesion 
with central hypodensity which did not appear to encase 
surrounding vasculature. The mass had peripheral enhancement and
central hypodensity and was felt to be most consistent with a 
neuroendocrine tumor. No adenopathy was seen. Within the liver 
were multiple hyper-enhancing lesions concerning for metastatic 
disease, including a 1.5 x 1.4 cm lesion in segment ___, a 7 x 6 
mm lesion in segment II/III, a 1.1 x 1.0 cm lesion in segment 
III. Endoscopic ultrasound on ___ confirmed the 3.2 cm
pancreatic head lesion, and FNA was performed, which 
preliminarily shows a neuroendocrine tumor. The patient was 
evaluated by Dr. ___ in his ___ clinic for 
possible surgical resection of these lesions. After all risks, 
benefits and possible outcomes were discussed with the patient, 
he was scheduled for elective surgical procedure on ___.
 
Past Medical History:
PMH: Raynaud's, psoriatiform arthritis,  GERD (non-obstructing
Schatzki ring at the GE junction),  hepatitis

PSH: Repair of right Achilles repair in ___, left knee 
arthroscopy ___, left small finger amputation in ___, appy

 
Social History:
___
Family History:
Grandfather with prostate cancer, mother died with lung cancer 
at ___. 

 
Physical Exam:
Prior Discharge:
VS: 98.3, 96, 110/67, 16, 95% RA
GEN: NAD, AAO x 3
CV: RRR, no m/r/g
PULM: Diminished BS bilaterally on bases
ABD: Bilateral subcostal incision open to air with steri strips 
and c/d/i. RLQ two old JP sites with dry gauze dressing with 
minimal sanguineous discharge.
EXTR: Warm, no c/c/e
 
Pertinent Results:
___ 07:45AM BLOOD WBC-18.9* RBC-3.35* Hgb-9.0* Hct-27.5* 
MCV-82 MCH-26.7* MCHC-32.5 RDW-14.0 Plt ___
___ 05:50AM BLOOD Glucose-109* UreaN-8 Creat-1.1 Na-134 
K-4.4 Cl-97 HCO3-27 AnGap-14
___ 05:50AM BLOOD ALT-110* AST-55* LD(LDH)-319* 
AlkPhos-297* TotBili-3.1*
___ 05:50AM BLOOD Calcium-8.1* Phos-3.0 Mg-2.4
___ 01:41PM ASCITES Amylase-37

___ 12:05 pm URINE      Source: ___. 
                  **FINAL REPORT ___

URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML.. 
      GRAM POSITIVE RODS.    >100,000 ORGANISMS/ML.. 
         CORYNEFORM BACILLI, UNABLE TO IDENTIFY FURTHER. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     1 S

___ CT ABD:
IMPRESSION: 
1. Pancreatic edema and peripancreatic fluid concerning for 
pancreatitis.  This could also contribute to the florid edema of 
the pancreaticobiliary jejunal loop.  Other causes of bowel wall 
thickening such as infection or ischemia cannot be excluded, 
although the SMV and SMA do appear to be widely patent. 
2. Small bilateral pleural effusions with compressive 
atelectasis. 
3. Moderate ascites with some hemorrhage.  The peripancreatic 
fluid in the lesser sac appears to track up along the stomach.  
This may be an evolving pseudocyst or abscess, but has no true 
wall at this point.  No drainable collections are seen.

                 SURGICAL PATHOLOGY REPORT - Final

PATHOLOGIC DIAGNOSIS:
1)  Gallbladder, cholecystectomy:
a. Gallbladder with no specific pathologic changes.
b. One lymph node with no malignancy identified ___, see 
synoptic
report).
2)  Pancreas and duodenum, pancreaticoduodenectomy:
a. Pancreatic neuroendocrine tumor, up to 2.2 cm, grade 2 out of 
3 (WHO
classification, pT2); the resection margins are negative for 
tumor (see
synoptic report).
b. Nineteen lymph nodes with no malignancy identified ___, 
pN0, see
synoptic report).
3)  Liver, left lateral segment, resection:
a. Metastatic neuroendocrine tumor (pM1); the resection margin 
is
negative for tumor (closest edge of tumor measures 0.7 cm away 
from the
margin, see synoptic report).
b. The background non-neoplastic liver shows minimal and 
non-specific
finidngs (microscopic description below).
 i. Minimal mixed portal inflammation comprised of lymphocytes 
and
neutrophils.
 ii. Mild macrovesicular steatosis with rare ballooning 
degeneration
identified; no intracytoplasmic hyaline seen.
 iii. Trichrome stain demonstrates no increased fibrosis.
 iv. Iron stains show minimal iron deposition within 
hepatocytes.

                 Pancreas (Endocrine): Resection Synopsis
Staging according to ___ Joint Committee on Cancer Staging 
Manual
                          -- ___ Edition, ___
Macroscopic
Specimen Type:
Pancreaticoduodenectomy, (Whipple resection),  pancreatectomy
Other Organs/
Tissues Received:      Gallbladder, partial liver resection 
(left
lateral segment)

Tumor Site:
 Pancreatic head

Tumor Focality:     Unifocal

Tumor Size:      Greatest dimension: 2.2 cm.   Additional 
___:
2.2 cm. x 1.8 cm.

Microscopic

Functionality Type:      Pancreatic endocrine tumor, functional 
status
unknown

WHO Classification:       Pancreatic Endocrine Tumor, grade 2

Mitotic rate per
10 high power fields:      Greater than or equal to 2 and less 
than 20
(3 mitoses seen per 10 high power fields)

Ki-67 proliferative index:      Greater than 2% and less or 
equal to
20% (5% proliferation index)

Tumor necrosis:      Present (focal)

Microscopic Tumor Extension

Margins:
Negative for tumor, Distance from closest margin: 4 mm, SMV 
groove

Primary Tumor:      Tumor confined to pancreas.

Primary Tumor (pT):      pT2: Tumor limited to the pancreas, 
greater
than 2 cm in greatest dimension

Regional Lymph Nodes (pN):     pN0: No regional lymph node 
metastasis

Lymph Nodes:      Number of lymph nodes examined: 20.  Number 
involved:
0

Distant Metastasis:      PM1: Distant metastasis
liver, left lateral segment.

Lymphovascular invasion:      Not identified

Perineural invasion:      Not identified

Additional Pathologic Findings:

Note: Immunohistochemical studies demonstrate that the tumor is
positive for cytokeratin cocktail (AE1/AE3, CAM 5.2), 
synaptophysin and
chromogranin.  A Ki-67 immunostain was performed and the tumor
proliferation index is reported above.

Clinical History:
 Pancreatic mass.

 

 
Brief Hospital Course:
The patient with metastatic pancreatic neuroendocrine tumor  was 
admitted to the HPB Surgical Service on ___ for elective 
surgical resection. On ___, the patient underwent radical 
pancreaticoduodenectomy (Whipple), left lateral hepatic 
sectionectomy and open cholecystectomy, which went well without 
complication (reader referred to the Operative Note for 
details). After a brief, uneventful stay in the PACU, the 
patient arrived on the floor NPO with an NG tube, on IV fluids, 
with a foley catheter and a JP drain x 2 in place, and epidural 
catheter for pain control. The patient was hemodynamically 
stable.
The ___ hospital course was followed the Whipple Clinical 
Pathway, his recovery was complicated by urinary tract 
infection. Post-operative pain was initially well controlled 
with epidural catheter, which was converted to oral pain 
medication when tolerating clear liquids. Patient's LFTs were 
followed daily, LFTs started to downward on POD # 2, and were 
continued to downward prior discharge. The NG tube was 
discontinued on POD# 2, and the foley catheter discontinued at 
midnight of POD# 4. The patient subsequently voided without 
problem. On POD # 4, patient spiked fever to 101.4, his blood 
and urine cultures were sent. He underwent abdominal CT scan, 
which demonstrated peripancreatic fluid collection, moderate 
ascites with some hemorrhage, no drainable collections were seen 
(see radiology report for details). Patient was started on IV 
Vancomycin and Zosyn empirically. Urine cultures were positive 
for Enterococcus and he was continued on IV antibiotics. 
Sensitivity came back on POD # 8, and patient's antibiotics were 
changed to PO Augmentin. His WBC started to downward and fever 
subsided. The patient was started on sips of clears on POD# 6, 
which was progressively advanced as tolerated to a regular diet 
by POD# 8.  JP amylase was sent in the evening of  POD# 7; the 
JP was discontinued on POD# 9 as the output and amylase level 
were low.
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirrometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay. The patient's blood sugar was monitored 
regularly throughout the stay; sliding scale  insulin was 
administered when indicated. 
At the time of discharge on ___, the patient was doing 
well, afebrile with stable vital signs.  The patient was 
tolerating a regular diet, ambulating, voiding without 
assistance, and pain was well controlled.  Staples were removed, 
and steri-strips placed. The patient was discharged home with 
___ services for wound checks. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
 Nifedipine ER 60', aciphex ER 20'

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H 
2. Calcium Carbonate 500 mg PO QID:PRN upset stomach 
3. Docusate Sodium 100 mg PO BID 
4. Metoclopramide 10 mg PO QIDACHS 
5. NIFEdipine CR 60 mg PO BID 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
7. RABEprazole 20 mg oral QD 
8. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Metastatic pancreatic neuroendocrine tumor 
2. Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ for surgical 
resection of your metastatic neuroendocrine tumor. You have done 
well in the post operative period and are now safe to return 
home to complete your recovery with the following instructions:
.
Please call Dr. ___ office at ___ if you have 
any questions or concerns. During off hours: call Operator at 
___ and ask to page ___.
.
Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
.
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___